US09168259B2
To a solution of 500 mg (1.64 mmol) 2-(3-methoxyprop-1-ynyl)-4-methyl-6-morpholino-pyridine-3-carboxylic acid methylester in MeOH (30 ml) was added 170 mg 10%-Pd/C. The reaction solution was stirred under hydrogen atmosphere (balloon) at RT for 16 h. Then the mixture was filtered through celite and the filtrate was concentrated in vacuo. Purification of the residue by CC (hexane/EtOAc 9:1) provided 480 mg (1.55 mmol, 95%) 2-(3-methoxypropyl)-4-methyl-6-morpholino-pyridine-3-carboxylic acid methylester.

reactant | 2-(3-methoxyprop-1-ynyl)-4-methyl-6-morpholino-pyridine-3-carboxylic acid methylester | 1.64 mmol, 500 mg | COC(=O)C=1C(=NC(=CC1C)N1CCOCC1)C#CCOC | C16H20N2O4
solvent | MeOH | 30 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-(3-methoxypropyl)-4-methyl-6-morpholino-pyridine-3-carboxylic acid methylester | 1.55 mmol, 480 mg, 95% | COC(=O)C=1C(=NC(=CC1C)N1CCOCC1)CCCOC | C16H24N2O4
